US06455521B1
Ethyl 2-(5-fluoro-2-nitroanilino)benzo[b]thiophene-3-carboxylate (50.7 g) was dissolved in ethyl acetate (1000 ml) and 10% palladium-carbon (8.0 g) was added. The mixture was stirred with hydrogen (60 kg/cm2) at 55° C. for 5 hr. The reaction mixture was cooled and the catalyst was filtered off. The filtrate was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (chloroform) to give ethyl 2-(2-amino-5-fluoroanilino)benzo[b]thiophene-3-carboxylate (24.5 g).

reactant | Ethyl 2-(5-fluoro-2-nitroanilino)benzo[b]thiophene-3-carboxylate | 50.7 g | FC=1C=CC(=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C1)[N+](=O)[O-] | C17H13FN2O4S
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 1000 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 8.0 g | [C].[Pd]
product | ethyl 2-(2-amino-5-fluoroanilino)benzo[b]thiophene-3-carboxylate | 24.5 g | NC1=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=C(C=C1)F | C17H15FN2O2S
